US04440774
(b) 3-[3-(3,4-Dimethoxyphenyl-2-propyl]-5-hydroxymethyl-2-phenyloxazolidine, (II)
A mixture of 3-[3-(3,4-dimethoxyphenyl)-2-propylamino]-1,2-propanediol (14.3 g., 0.053 m.), benzaldehyde (12.7 g., 0.12 m.) and benzoic acid (0.3 g.) in toluene (45 ml.) is refluxed for 3 hours, collecting the water formed in a Dean-Stark trap. After washing with saturated NaHCO3 solution and with H2O (2×), the solvent is distilled under reduced pressure. Excess benzaldehyde is distilled at 100° C. at 0.1 mm. The residue, (II) (16.88 g., 89%) is used without further purification in the next step.

reactant | 3-[3-(3,4-dimethoxyphenyl)-2-propylamino]-1,2-propanediol | 14.3 g | COC=1C=C(C=CC1OC)CC(C)NCC(CO)O | C14H23NO4
reactant | benzaldehyde | 12.7 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzoic acid | 0.3 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,4-Dimethoxyphenyl-2-propyl]-5-hydroxymethyl-2-phenyloxazolidine | COC=1C=C(C=CC1OC)CC(C)N1C(OC(C1)CO)C1=CC=CC=C1 | C21H27NO4
